US07425568B2
2-3-Nitrophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 2-(3-nitrophenyl)chroman-4,6-diol. 1H NMR (300 MHz, d6-DMSO) δ: 8.80 (s, 1H), 8.26 (s, 1H), 8.19 (dd, 1H, J 8.1, 2.3 Hz), 7.90 (d, 1H, J 7.9Hz), 7.70 (t, 1H, J 15.9, 7.9 Hz), 6.70 (d, 1H, J 8.4 Hz), 6.51-6.55 (m, 2H), 5.19 (dd, 1H, J 10.0, 2.0), 2.86-2.91 (m, 1H), 2.61-2.68 (m, 1H), 2.17-2.23 (m, 1H), 1.91-1.97 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(3-nitrophenyl)chroman-4,6-diol | [N+](=O)([O-])C=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13NO5
product | chroman-6-ol | O1CCCC2=CC(=CC=C12)O | C9H10O2
